US07030116B2
2-(2-Morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-3-phenyl-propyl]-amide (mixture of diastereoisomers)
It is similarly prepared according to general procedure for Example 10 above but using 2-(2-Morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid and (S)-2-Amino-1-oxazol-2-yl-4-phenyl-butan-1-ol.

reactant | 2-(2-Morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid | N1(CCOCC1)C(CC(C(=O)O)CCCC1=CC=CC=C1)=O | C17H23NO4
reactant | (S)-2-Amino-1-oxazol-2-yl-4-phenyl-butan-1-ol | NC([C@H](O)C=1OC=CN1)CCC1=CC=CC=C1 | C13H16N2O2
product | 2-(2-Morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-3-phenyl-propyl]-amide | O1C(=NC=C1)C(=O)[C@H](CCC1=CC=CC=C1)NC(C(CCCC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C30H35N3O5
